US05885997
4-[2-[2-Ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzaldehyde
The title compound (1.7 g, 42%) was prepared from 2-ethyl-4-methyl-1,6-dihydro-6-pyrimidone (2.0 g, 14.49 mmol), 4-[2-bromoethoxy]benzaldehyde (3.32 g, 14.49 mmol), LiBr (2.9 g, 33.33 mmol) and NaH (0.45 g, 18.84 mmol) as base, by a similar procedure to that described in preparation 1.

reactant | 2-ethyl-4-methyl-1,6-dihydro-6-pyrimidone | 14.49 mmol, 2.0 g | C(C)C=1NC(C=C(N1)C)=O | C7H10N2O
reactant | 4-[2-bromoethoxy]benzaldehyde | 14.49 mmol, 3.32 g | BrCCOC1=CC=C(C=O)C=C1 | C9H9BrO2
reactant | LiBr | 33.33 mmol, 2.9 g | [Li+].[Br-]
reactant | NaH | 18.84 mmol, 0.45 g | [H-].[Na+]
product | 4-[2-[2-Ethyl-4-methyl-6-oxo-1,6-dihydro-1-pyrimidinyl]ethoxy]benzaldehyde | 1.7 g, 42% | C(C)C=1N(C(C=C(N1)C)=O)CCOC1=CC=C(C=O)C=C1 | C16H18N2O3
